US05196439
2-[4-(m-Nitrophenoxy)piperidinyl]-2'-acetonaphthone hydrochloride
0.63 g of 2-bromo-2'-acetonaphthone, 0.65 g of 4-(m-nitrophenoxy)piperidine hydrochloride, and 1 g of triethylamine were added to 100 ml of ethanol. The mixture was refluxed for 30 min. The solvent was distilled off, and dichloromethane was added to the residue. The mixture was washed with water and dried. The dichloromethane was distilled off, and the residue was purified by column chromatography (silica gel) to prepare an oleaginous intended compound. The compound was converted into a hydrochloride by an ordinary method and then recrystallized to prepare 0.15 g of an intended hydrochloride.

reactant | 2-bromo-2'-acetonaphthone | 0.63 g | BrCC(=O)C1=CC2=CC=CC=C2C=C1 | C12H9BrO
reactant | 4-(m-nitrophenoxy)piperidine hydrochloride | 0.65 g | Cl.[N+](=O)([O-])C=1C=C(OC2CCNCC2)C=CC1
reactant | triethylamine | 1 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloride | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-[4-(m-Nitrophenoxy)piperidinyl]-2'-acetonaphthone hydrochloride | Cl.[N+](=O)([O-])C=1C=C(OC2CCN(CC2)CC(=O)C2=CC3=CC=CC=C3C=C2)C=CC1 | InChI=1S/C23H22N2O4.ClH/c26-23(19-9-8-17-4-1-2-5-18(17)14-19)16-24-12-10-21(11-13-24)29-22-7-3-6-20(15-22)25(27)28;/h1-9,14-15,21H,10-13,16H2;1H
